US05439917
A solution of 85 mg (0.64 mmol) of 2-methyl-pyrrolo[2,3-b]pyridine and 140 mg(0.76 mmol) of (2-bromoethyl)benzene in 1 ml acetonitrile was refluxed for 40 h. The solvent was evaporated and the residue was treated with ether. The solid that formed was isolated by filtration to give 188 mg (62%) of 2-methyl-7- (2-phenylethyl)pyrrolo[2,3-b]pyridinehydrobromide.

reactant | 2-methyl-pyrrolo[2,3-b]pyridine | 0.64 mmol, 85 mg | CC1=CC=2C(=NC=CC2)N1 | C8H8N2
reactant | (2-bromoethyl)benzene | 0.76 mmol, 140 mg | BrCCC1=CC=CC=C1 | C8H9Br
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 2-methyl-7- (2-phenylethyl)pyrrolo[2,3-b]pyridinehydrobromide | 188 mg, 62% | Br.CC1=CC=2C(N(C=CC2)CCC2=CC=CC=C2)=N1 | InChI=1S/C16H16N2.BrH/c1-13-12-15-8-5-10-18(16(15)17-13)11-9-14-6-3-2-4-7-14;/h2-8,10,12H,9,11H2,1H3;1H
